US08470884B2
To a solution of {4-[3-(2-Chloro-benzenesulfonylamino)-1-methylene-propyl]-6-fluoro-3-methyl-naphthalen-2-yl}-acetic acid methyl ester (140 mg, 0.294 mmol) in THF (6 mL) was added a solution of LiOH (141 mg, 5.88 mmol) in water (1.5 mL). The resulting mixture was warmed with a heat gun to produce a clear solution, which was stirred for 15 hours at room temperature. At this time, LCMS analysis indicated the complete conversion of starting material. The THF was evaporated and the aqueous layer was diluted with water and slowly neutralized with 1.0 N HCl to obtain a white precipitate which was collected by filtration and washed with water and hexanes. After air drying, 125 mg of {4-[3-(2-chloro-benzenesulfonylamino)-1-methylene-propyl]-6-fluoro-3-methyl-naphthalen-2-yl}-acetic acid was isolated as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.43 (bs, 1H), 7.96 (t, J=5.6 Hz, 1H), 7.87-7.93 (m, 2H), 7.73 (s, 1H), 7.59-7.62 (m, 2H), 7.45-7.51 (m, 1H), 7.29-7.38 (m, 2H), 5.50 (dd, J=3.3, 1.2 Hz, 1H), 4.93 (d, J=1.0 Hz, 1.2H), 3.72-3.80 (m, 2H), 3.00-3.12 (m, 2H), 2.30-2.39 (m, 2H), 2.17 (s, 3H). MS cald. for C23H22ClFNO4S [(M+H)+] 462.1, obsd. 462.0.

reactant | {4-[3-(2-Chloro-benzenesulfonylamino)-1-methylene-propyl]-6-fluoro-3-methyl-naphthalen-2-yl}-acetic acid methyl ester | 0.294 mmol, 140 mg | COC(CC1=CC2=CC=C(C=C2C(=C1C)C(CCNS(=O)(=O)C1=C(C=CC=C1)Cl)=C)F)=O | C24H23ClFNO4S
reactant | LiOH | 5.88 mmol, 141 mg | [Li+].[OH-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | {4-[3-(2-chloro-benzenesulfonylamino)-1-methylene-propyl]-6-fluoro-3-methyl-naphthalen-2-yl}-acetic acid | 125 mg | ClC1=C(C=CC=C1)S(=O)(=O)NCCC(=C)C1=C(C(=CC2=CC=C(C=C12)F)CC(=O)O)C | C23H21ClFNO4S
